US04418078
1,4-Bis(3-aminopropylamino)-5,8-dihydroxyanthraquinone
A suspension of 10.0 g. of leuco-1,4,5,8-tetrahydroxyanthraquinone in 120 ml. of de-aerated 1,3-diaminopropane is stirred and heated at 45° C. under nitrogen for one hour and then for 10 minutes as air is bubbled into the suspension. The mixture is then evaporated to dryness and the residue is extracted with 650 ml. of ethanol in a Soxhlet apparatus for 17 hours. The extract is filtered while hot, concentrated to 95 ml. and then diluted with 900 ml. of diethyl ether. The mixture is cooled and the solid is collected, washed with ethanol-diethyl ether, then diethyl ether giving the desired product as 9.57 g. of a blue solid, mp. 115°-130° C.

reactant | leuco-1,4,5,8-tetrahydroxyanthraquinone | C1CC(=O)C2=C(C3=C(C=CC(=C3C(=C2C1=O)O)O)O)O | C14H10O6
reactant | 1,3-diaminopropane | NCCCN | C3H10N2
product | 1,4-Bis(3-aminopropylamino)-5,8-dihydroxyanthraquinone | NCCCNC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)NCCCN | C20H24N4O4
